.suckt  three_stage_single_output_op_amp_45_10_3 ibias in1 in2 out sourceNmos sourcePmos
c1 outFirstStage out 
c2 outSecondStage out 
m1 inputVoltageBiasXXpXX1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m2 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos
m3 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos
m4 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos
m5 FirstStageYsourceGCC1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m6 outFirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos
m7 FirstStageYsourceGCC2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m8 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos
m9 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos
m10 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos
m11 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos
m12 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m13 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c3 out sourceNmos 
m14 outSecondStage inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m15 outSecondStage inputVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos
m16 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos
m17 out outSecondStage sourceNmos sourceNmos nmos
m18 out inputVoltageBiasXXpXX1 ThirdStageYinnerStageBias ThirdStageYinnerStageBias pmos
m19 ThirdStageYinnerStageBias ibias sourcePmos sourcePmos pmos
m20 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m21 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m22 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m23 ibias ibias sourcePmos sourcePmos pmos
.end three_stage_single_output_op_amp_45_10_3

